US07601716B2
N-(4-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}phenyl)acetamide
1-[5-Chloro-2-(trifluoromethyl)benzyl]-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (90 mg) was reacted with 4-acetamidophenylboronic acid as in General Procedure 4B to give the title compound as a light gray solid (42% yield). m.p.=244° C., LCMS: m/z=461.24 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.13 (3H, s), 3.49 (2H, m), 3.65 (2H, m), 3.82 (2H, s), 4.61 (2H, s), 6.58 (1H, s), 7.28 (2H, d, J=8.1 Hz), 7.36 (1H, d, J=7.3 Hz), 7.51 (3H, m), 7.60 (1H, s), 7.65 (1H, d, J=8.6 Hz).

reactant | 1-[5-Chloro-2-(trifluoromethyl)benzyl]-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 90 mg | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)I)C1)C(F)(F)F | C15H12ClF3IN3
reactant | 4-acetamidophenylboronic acid | C(C)(=O)NC1=CC=C(C=C1)B(O)O | C8H10BNO3
product | N-(4-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}phenyl)acetamide | 42% yield | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC=C(C=C3)NC(C)=O)C1)C(F)(F)F | C23H20ClF3N4O
